US09259470B2
Triethylamine (2.09 mL, 15.0 mmol) was added to a cold (0° C.) solution of (R)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethanol (3.05 g, 10.0 mmol) in DCM (100 mL), followed by methanesulfonyl chloride (0.929 mL, 12.0 mmol). The reaction mixture was stirred at 0° C. for 30 minutes and then quenched with water (50 mL). The layers were separated, and the organic layer was washed with saturated NaHCO3, dried, filtered and concentrated to give the crude product. The crude product was purified via column chromatography, eluting with hexanes/ethyl acetate (25:1) to give (R)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl methanesulfonate (3.80 g, 99%) as an oil. 1H NMR (400 MHz, CDCl3) δ 7.42 (m, 1H), 7.20 (m, 1H), 7.12 (m, 1H), 5.50 (m, 1H), 3.91 (m, 1H), 3.80 (m, 1H), 2.98 (s, 3H), 0.88 (s, 9H), 0.05 (s, 3H), 0.04 (s, 3H).

reactant | Triethylamine | 15.0 mmol, 2.09 mL | C(C)N(CC)CC | C6H15N
reactant | (R)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethanol | 10.0 mmol, 3.05 g | [Si](C)(C)(C(C)(C)C)OC[C@H](O)C1=CC(=C(C=C1)Cl)F | C14H22ClFO2Si
reactant | methanesulfonyl chloride | 12.0 mmol, 0.929 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(tert-butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl methanesulfonate | 3.80 g, 99% | CS(=O)(=O)O[C@@H](CO[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)Cl)F | C15H24ClFO4SSi
